US07332495B2
IV-30 N1-(3,4-methylenedioxybenzyl)-N4-[1-(5-chloro-6-methoxy-2-naphthoyl) ethyl]piperazine dihydrochloride
A mixture of N-(3,4-methylenedioxobenzyl)piperazine dihydrochloride (1 g, 4.5 mmol), 2-chloro-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one (1.54 g, 5.4 mmol) and K2CO3 (1.57 g, 11.25 mmol) in 20 ml of DMF, was treated according to general preparation 2 to give 0.62 g of compound (IV-30), yield 70%, mp 230-232° C. M+ 466.

reactant | N-(3,4-methylenedioxobenzyl)piperazine dihydrochloride | 4.5 mmol, 1 g | Cl.Cl.C1C=2C(C(C(N3CCNCC3)=O)C=CC21)=O
reactant | 2-chloro-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one | 5.4 mmol, 1.54 g | ClC(C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC)C | C14H12Cl2O2
reactant | K2CO3 | 11.25 mmol, 1.57 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N1-(3,4-methylenedioxybenzyl)-N4-[1-(5-chloro-6-methoxy-2-naphthoyl) ethyl]piperazine dihydrochloride | 0.62 g, yield 70% | Cl.Cl.C1OC=2C=C(CN3CCN(CC3)C(C)C(=O)C3=CC4=CC=C(C(=C4C=C3)Cl)OC)C=CC2O1 | InChI=1S/C26H27ClN2O4.2ClH/c1-17(26(30)20-4-6-21-19(14-20)5-8-23(31-2)25(21)27)29-11-9-28(10-12-29)15-18-3-7-22-24(13-18)33-16-32-22;;/h3-8,13-14,17H,9-12,15-16H2,1-2H3;2*1H
